US04558047
[R-(R*, R*)]-α-(1-Formyl-2-hydroxyethoxy)-1,6-dihydro-6-oxo-9H-purine-9-acetaldehyde, (inosinedialdehyde), (1.33 g) was dissolved in a mixture of methanol (300 ml) and water (300 ml). To the solution was added guanine (0.76 g). The mixture was stirred at ambient temperature for three days and filtered. The filtrate was evaporated in vacuo at 35° C. The residue was triturated with acetone to give 9-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-hypoxanthinyl)morpholin-2-yl]hypoxanthine (2.20 g).

reactant | α-(1-Formyl-2-hydroxyethoxy)-1,6-dihydro-6-oxo-9H-purine-9-acetaldehyde | 1.33 g | C(=O)C(CO)OC(C=O)N1C=2N=CNC(C2N=C1)=O | C10H10N4O5
reactant | guanine | 0.76 g | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
product | 9-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-hypoxanthinyl)morpholin-2-yl]hypoxanthine | 2.20 g | OC1N(C([C@H](O[C@H]1N1C=2N=CNC(C2N=C1)=O)CO)O)C=1NC(C=2NC=NC2N1)=O | C15H15N9O6
